US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and p-tert.butylbenzoyl chloride, there is obtained ethyl N-(p-tert.butylbenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a foam, mass spectrum m/e: M+ 426 (8), 398 (6), 194 (100), 161 (36);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | p-tert.butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | ethyl N-(p-tert.butylbenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C)(C)(C)C1=CC=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C28H30N2O2
